US06525042B1
1-tert-Butoxycarbonyl-4-[4-(4-pyridyl)benzoyl]piperazine
In N,N-dimethylformamide (40 ml), 4-(4-pyridyl)benzoic acid hydrochloride (654 mg) and tert-butyl 1-piperazinecarboxylate (569 mg) were suspended. To the resulting suspension, 1-hydroxybenzotriazole (374 mg) and N-methylmorpholine (336 pl) were added. The resulting mixture was ice cooled, followed by the addition of 1-(3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (796 mg). After stirring at room temperature for 7 hours, the solvent was distilled off. The residue was purified by chromatography on a silica gel column (2% methanol-dichloromethane), followed by washing with hexane, whereby the title compound (905 mg, 89%) was obtained.

reactant | 4-(4-pyridyl)benzoic acid hydrochloride | 654 mg | Cl.N1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1
reactant | tert-butyl 1-piperazinecarboxylate | 569 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-hydroxybenzotriazole | 374 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 796 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-tert-Butoxycarbonyl-4-[4-(4-pyridyl)benzoyl]piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C21H25N3O3
